US05750531
Synthesis of 5,6-dimethyl-4-(N-methylphenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.5 ml, 4.2 mmol) was added to a mixture solution of 5,6-dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.6 g, 2.0 mmol) and dimethylformamide(10 ml), 0.28 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | N-methylaniline | 4.2 mmol, 0.5 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 5,6-dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 2.0 mmol, 0.6 g | CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)Cl | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-4-(N-methylphenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.28 g, Yield: 37% | Cl.CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)N(C)C1=CC=CC=C1 | InChI=1S/C22H24N4.ClH/c1-16-17(2)23-22(24-21(16)25(3)20-11-5-4-6-12-20)26-14-13-18-9-7-8-10-19(18)15-26;/h4-12H,13-15H2,1-3H3;1H
